US04128650
Dimethyl sulphate (48 cc) is added to a suspension of 12b-hydroxy-10,11-dimethoxy-5,6,8,12b-tetrahydroisoindolo[1,2-a]isoquinol-8-one (80.65 g) in methanol (563 cc) and the reaction mixture is heated under reflux for 6 hours. After concentration to 100 cc and the successive addition of water (300 cc) and then of 10N sodium hydroxide (70 cc), the mixture is extracted three times with ethyl acetate (total 400 cc). The combined organic solutions are washed three times with distilled water (total 400 cc), dried over anhydrous sodium sulphate, treated with decolourising charcoal (1 g), filtered and evaporated. 1-(4,5-Dimethoxy-2-methoxycarbonylphenyl)-3,4-dihydroisoquinoline (67.8 g), melting at 133° C., is thus obtained.

reactant | Dimethyl sulphate | 48 cc | S(=O)(=O)(OC)OC | C2H6O4S
reactant | 12b-hydroxy-10,11-dimethoxy-5,6,8,12b-tetrahydroisoindolo[1,2-a]isoquinol-8-one | 80.65 g | OC12N(CCC=3C=CC=CC13)C(C1=CC(=C(C=C12)OC)OC)=O | C18H17NO4
solvent | methanol | 563 cc | CO | CH4O
product | 1-(4,5-Dimethoxy-2-methoxycarbonylphenyl)-3,4-dihydroisoquinoline | 67.8 g | COC1=CC(=C(C=C1OC)C1=NCCC2=CC=CC=C12)C(=O)OC | C19H19NO4
